US05186717
a) Preparation of 2,6-dinitro-4-methyl-N-(β-hydroxypropyl)-aniline
0.05 mol (10.6 g) of 2,6-dinitro-4-methylanisole is introduced gradually, whilst stirring, into 30 ml of 1-aminopropan-2-ol. The reaction medium is heated at 60° C. for 30 minutes and then poured into 120 g of iced water. The expected product precipitates. It is filtered off, washed with water and then recrystallised from an aqueous-alcoholic mixture. After drying in vacuo, it melts at 80° C.

reactant | 2,6-dinitro-4-methylanisole | 0.05 mol, 10.6 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C)[N+](=O)[O-])OC | C8H8N2O5
reactant | 1-aminopropan-2-ol | 30 ml | NCC(C)O | C3H9NO
solvent | water | 120 g | O | H2O
product | 2,6-dinitro-4-methyl-N-(β-hydroxypropyl)-aniline | [N+](=O)([O-])C1=C(NCC(C)O)C(=CC(=C1)C)[N+](=O)[O-] | C10H13N3O5
